US04482740
2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(4-methanesulfonamidophenyl)-2-cyclohexen-1one:
Into 10 ml of tetrahydrofuran was dissolved 1.5 g of 3-hydroxy-5-(4-methanesulfonamidophenyl)-2-propionyl-2-cyclohexen-1-one and to the solution was added 0.5 g of ethoxyamine. The mixture was kept at room temperature for 15 hours and poured into ice water. And then the mixture was acidified with hydrochloric acid and it was extracted with chloroform. The chloroform solution was washed with water and extracted with 15 ml of an aqueous solution cotaining 5% of sodium hydroxide. The solution was acidified with hydrochloric acid and the crystal sedimented was extracted with chloroform and the solution was washed with water and it was dried with magnesium sulfate. Then, it was distilled off under a reduced pressure and thus, 1.4 g of the objective compound was obtained. It was colorless crystals having a melting point of 115°-116° C.

reactant | 3-hydroxy-5-(4-methanesulfonamidophenyl)-2-propionyl-2-cyclohexen-1-one | 1.5 g | OC1=C(C(CC(C1)C1=CC=C(C=C1)NS(=O)(=O)C)=O)C(CC)=O | C16H19NO5S
reactant | ethoxyamine | 0.5 g | C(C)ON | C2H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(4-methanesulfonamidophenyl)-2-cyclohexen-1one | 1.4 g | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)NS(=O)(=O)C)=O | C18H24N2O5S
